US04243683
3-Bromo-2-oxopropylidenetriphenylphosphorane (8.0 g) was added to a solution of o-chlorophenol (3.8 g) and potassium hydroxide (1.56 g) in anhydrous ethanol (60 ml), and the resulting mixture was heated at reflux for 2 hours and was then poured into water (200 ml). The mixture was extracted with methylene chloride and the extract was washed with dilute aqueous sodium hydroxide solution (2 N) and with water, dried over magnesium sulphate, and evaporated. The residual solid was recrystallised from a mixture of petroleum ether (b.p. 60°-80° C.) and ethyl acetate, to give 3-(2-chlorophenoxy)-2-oxopropylidenetriphenylphosphorane (4.5 g), m.p. 102°-104° C. A further recrystallisation from a similar solvent gave a purer sample, m.p. 107°-109° C. [elemental analysis: C, 73.1; H, 5.3; P, 7.0%. C27H22ClO2P requires C, 72.9; H, 5.0; P, 6.95%. νmax 715, 750, 1110, 1405, 1440, 1485 and 1550 cm-1 ].

reactant | 3-Bromo-2-oxopropylidenetriphenylphosphorane | 8.0 g | BrCC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H18BrOP
reactant | o-chlorophenol | 3.8 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | potassium hydroxide | 1.56 g | [OH-].[K+]
reactant | water | 200 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-(2-chlorophenoxy)-2-oxopropylidenetriphenylphosphorane | 4.5 g | ClC1=C(OCC(C=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=CC=C1 | C27H22ClO2P
